US07462624B2
Step E: 7-Benzyl-6-(methylthio)-3-pentyl-3,7-dihydro-2H-purin-2-one
To a mixture of 7-benzyl-3-pentyl-6-thioxo-1,3,6,7-tetrahydro-2H-purin-2-one (5.3 g, 16 mmol) in a solution of sodium hydroxide in water (2 M, 50.0 mL) was added dimethyl sulfate (2.3 mL, 24 mmol). The reaction mixture was stirred at 80° C. overnight, quenched with acetic acid and extracted with dichloromethane (DCM). The organic layer was dried and concentrated to provide the desired product (5.2 g, 98% yield). LCMS calculated for C18H23N4OS (M+H): 343.2; found: 343.1.

reactant | 7-benzyl-3-pentyl-6-thioxo-1,3,6,7-tetrahydro-2H-purin-2-one | 16 mmol, 5.3 g | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=S)=O)CCCCC | C17H20N4OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | 24 mmol, 2.3 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 2 M, 50.0 mL | O | H2O
product | 7-Benzyl-6-(methylthio)-3-pentyl-3,7-dihydro-2H-purin-2-one | 5.2 g, 98% yield | C(C1=CC=CC=C1)N1C=NC=2N(C(N=C(C12)SC)=O)CCCCC | C18H22N4OS
